US07018988B2
(3EZ,5S)-1-benzoyl-5-{[4-(3,4-dichlorophenyl)-1-piperazinyl]carbonyl}-3-pyrrolidinone O-ethyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 1-(3,4-dichlorophenyl)piperazine the title compound was obtained in 51% purity by LC/MS. MS(ESI+): m/z=489.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-(3,4-dichlorophenyl)piperazine | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
product | (3EZ,5S)-1-benzoyl-5-{[4-(3,4-dichlorophenyl)-1-piperazinyl]carbonyl}-3-pyrrolidinone O-ethyloxime | C(C)ON=C1CN([C@@H](C1)C(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl)C(C1=CC=CC=C1)=O | C24H26Cl2N4O3
